US05346881
In a flask were placed 3.05 g (0.018 mole) of 5-amino-6-fluoro-1,4-benzodioxane and 40 mL of N,N-dimethylformamide. To this solution was added in a dropwise manner a solution of 2.65 g (0.0198 mole) of N-chlorosuccinimide in N,N-dimethylformamide while maintaining the temperature at ambient conditions. The solvent was evaporated under reduced pressure, leaving a residue which was passed through a column of silica gel, eluting with methylene chloride/heptane (1:1 ). Product-containing fractions were combined and the solvent evaporated, yielding 2.25 g of 5-amino-8-chloro-6-fluoro-1,4-benzodioxane as the residue. The NMR spectrum was consistent with the proposed structure.

reactant | 5-amino-6-fluoro-1,4-benzodioxane | 0.018 mole, 3.05 g | NC1=C(C=CC=2OCCOC21)F | C8H8FNO2
reactant | N-chlorosuccinimide | 0.0198 mole, 2.65 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | 5-amino-8-chloro-6-fluoro-1,4-benzodioxane | 2.25 g | NC1=C(C=C(C=2OCCOC21)Cl)F | C8H7ClFNO2
